US20010025045A1
N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-3-methoxynaphthalene-2-carboxamide
3-Methoxy-2-naphthoic acid (202mg; 1mmol), 1-hydroxybenzotriazole (135mg; 1mmol) and 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (192mg; 1mmol) in dry dimethylformamide (15ml) was stirred at 25° C. for 40 min. The amine of Description 7 (162mg; 1mmol) was added and the mixture kept at 25° C. overnight. Chloroform (50ml) was added and the organic phase washed with water, brine and dried (Na2SO4). Evaporation in vacuo followed by trituration with methanol-ether gave the title compound.

reactant | 3-Methoxy-2-naphthoic acid | 1mmol, 202mg | COC=1C(=CC2=CC=CC=C2C1)C(=O)O | C12H10O3
reactant | 1-hydroxybenzotriazole | 1mmol, 135mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 1mmol, 192mg | Cl.CN(CCCN=C=NCC)C
reactant | Chloroform | 50ml | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 15ml | CN(C=O)C | C3H7NO
product | N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-3-methoxynaphthalene-2-carboxamide | CN1CC2=CC=CC(=C2CC1)NC(=O)C1=CC2=CC=CC=C2C=C1OC | C22H22N2O2
